US07148249B2
4-(1-methyl-4-piperazinyl-carbonyl)aniline
10.9 g of 4-(1-methyl-4-piperazinyl-carbonyl)-1-nitrobenzene are hydrogenated in 90 ml of ethanol with the addition of 1.1 g of Raney nickel for 35 minutes at ambient temperature under 50 psi of hydrogen atmosphere. The catalyst is removed by suction filtering, the filtrate is evaporated down, the residue is stirred with diethyl ether and dried.

reactant | 4-(1-methyl-4-piperazinyl-carbonyl)-1-nitrobenzene | 10.9 g | CN1CCN(CC1)C(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C12H15N3O3
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 90 ml | C(C)O | C2H6O
catalyst | Raney nickel | 1.1 g | [Ni] | Ni
product | 4-(1-methyl-4-piperazinyl-carbonyl)aniline | CN1CCN(CC1)C(=O)C1=CC=C(N)C=C1 | C12H17N3O
